datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([C:6]([H:13])([H:14])[H:15])[H:12])[H:11])([H:9])[H:10])[H:8])[H:7]>>[C:0](#[C:1][C:2]1([H:8])[C:3]([H:9])([H:10])[C:4]([H:11])[C:5]1([C:6]([H:13])([H:14])[H:15])[H:12])[H:7],151.837
[H:9].[O:0]=[C:1]([C:2](=[C:3]([O:4][H:8])[H:7])[H:6])[H:5]>>[H:5][H:9].[O:0]=[C:1][C:2](=[C:3]([O:4][H:8])[H:7])[H:6],10.8784
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:23])([H:24])[H:25])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[C:26]([H:27])([H:28])[H:29]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:23])([H:24])[H:25])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])([H:8])([H:9])[H:10].[H:11][C:26]([H:27])([H:28])[H:29],22.92832
[H:4].[O:0]([S:1][H:3])[H:2]>>[H:3][H:4].[O:0]([S:1])[H:2],0.0
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7](=[C:8]([C:9]([C:10]([H:15])([H:16])[H:17])[C:11]([H:18])([H:19])[H:20])[H:14])([H:12])[H:13]>>[C:0](=[C:1]([C:2]([H:4])([H:5])[H:6])[C:9]([C:8](=[C:7]([H:12])[H:13])[H:14])([C:10]([H:15])([H:16])[H:17])[C:11]([H:18])([H:19])[H:20])[H:3],58.0739
[C:0](=[O:1])([H:2])[H:3].[C:4]([C:5]([C:6]([C:7]([H:16])([H:17])[H:18])([O:8][O:9])[H:15])([H:13])[H:14])([H:10])([H:11])[H:12]>>[C:0](=[O:1])[H:3].[H:2][O:9][O:8][C:6]([C:5]([C:4]([H:10])([H:11])[H:12])([H:13])[H:14])([C:7]([H:16])([H:17])[H:18])[H:15],56.9024
[C:0]([C:1]([S:2][H:8])([H:6])[H:7])([H:3])([H:4])[H:5].[C:9]([S:10])([H:11])([H:12])[H:13]>>[C:0]([C:1]([H:6])[H:7])([H:3])([H:4])[H:5].[S:2]([H:8])[S:10][C:9]([H:11])([H:12])[H:13],47.9068
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:22])([H:23])[H:24])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9].[C:25]([H:26])([H:27])[H:28]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:22])([H:23])[H:24])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])([H:9])[C:25]([H:26])([H:27])[H:28],0.0
[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5]#[C:6][H:13])[C:7](=[C:8]([H:15])[H:16])[H:14])[H:9].[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5]#[C:6][H:13])([C:7](=[C:8]([H:15])[H:16])[H:14])[H:17])[H:9],11.8826
[C:0](=[C:1][C:2](=[C:3]([H:7])[H:8])[H:6])([H:4])[H:5].[C:9]([C:10](=[S:11])[H:15])([H:12])([H:13])[H:14]>>[C:0](=[C:1]([C:2](=[C:3]([H:7])[H:8])[H:6])[H:12])([H:4])[H:5].[C:9]([C:10](=[S:11])[H:15])([H:13])[H:14],25.5224
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[c:11]1[c:12]([H:17])[c:13]([H:18])[c:14]([H:19])[c:15]([H:20])[c:16]1[H:21]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[H:7])([H:3])([H:4])[H:5].[H:6][c:11]1[c:12]([H:17])[c:13]([H:18])[c:14]([H:19])[c:15]([H:20])[c:16]1[H:21],-5.4392
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:16])[H:17])[H:15])=[C:5]([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:18])[H:14])([H:12])[H:13].[C:24](=[C:25]([C:26]([C:27](=[C:28]([H:34])[H:35])[H:33])[H:32])[H:31])([H:29])[H:30]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:16])[H:17])[H:15])[C:5]([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])([H:18])[C:26]([C:25](=[C:24]([H:29])[H:30])[H:31])([C:27](=[C:28]([H:34])[H:35])[H:33])[H:32])[H:14])([H:12])[H:13],62.5508
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[C:10]([C:11]([S:12][H:22])[c:13]1[c:14]([H:23])[c:15]([H:24])[c:16]([H:25])[c:17]([H:26])[c:18]1[H:27])([H:19])([H:20])[H:21]>>[C:0](=[C:1][C:2](=[C:3]([H:8])[H:9])[H:7])([H:4])[H:5].[H:6][C:11]([C:10]([H:19])([H:20])[H:21])([S:12][H:22])[c:13]1[c:14]([H:23])[c:15]([H:24])[c:16]([H:25])[c:17]([H:26])[c:18]1[H:27],89.956
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[H:6])[H:5].[C:13]([C:14]=[S:15])([H:16])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:5].[H:6][C:14]([C:13]([H:16])([H:17])[H:18])=[S:15],31.38
[C:0]([C:1]([O:2][H:8])([H:6])[H:7])([H:3])([H:4])[H:5].[O:9][O:10][H:11]>>[C:0]([C:1]([O:2][H:8])([H:6])[H:7])([H:4])[H:5].[H:3][O:9][O:10][H:11],65.898
[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([H:8])[H:9])[H:7])([H:4])([H:5])[H:6].[C:13]([H:14])([H:15])[H:16]>>[C:0]([C:1](=[C:2]([C:3]([H:10])([H:11])[H:12])[H:9])[H:7])([H:4])([H:5])[H:6].[H:8][C:13]([H:14])([H:15])[H:16],0.0
[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([H:14])[H:15])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8])([H:6])[H:7].[H:16]>>[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([H:14])[H:15])[H:13])([H:11])[H:12])[H:10])[H:8])([H:6])[H:7].[H:9][H:16],0.866088
[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[O:4])([H:8])[H:9])([H:5])([H:6])[H:7].[O:13][O:14][H:15]>>[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[O:4])[H:9])([H:5])([H:6])[H:7].[H:8][O:13][O:14][H:15],36.392432
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[C:6]([C:7]([C:8](=[S:9])[H:14])[H:13])([H:10])([H:11])[H:12]>>[C:0]([S:1])([H:2])([H:3])[H:4].[H:5][C:7]([C:6]([H:10])([H:11])[H:12])([C:8](=[S:9])[H:14])[H:13],43.5136
